US04182776
p-[(11-Phenoxyundecyl)amino]benzoic acid
A mixture of 7.0 g of ethyl p-[(11-phenoxyundecyl)amino]benzoate, 7.0 g of potassium hydroxide and 150 ml of ethanol-water (9:1) is refluxed for 3.5 hours. The mixture is made acidic while hot with concentrated hydrochloric acid, diluted with water, cooled and filtered to give white crystals, mp 117°-119° C. Recrystallization from ethanol gives white crystals, mp 118°-119.5° C.

reactant | ethyl p-[(11-phenoxyundecyl)amino]benzoate | 7.0 g | O(C1=CC=CC=C1)CCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C26H37NO3
reactant | potassium hydroxide | 7.0 g | [OH-].[K+]
reactant | ethanol water | 150 ml | C(C)O.O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | p-[(11-Phenoxyundecyl)amino]benzoic acid | O(C1=CC=CC=C1)CCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C24H33NO3
